Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tetracycline / Erythromycin Base / Codeine / 
Ciprofloxacin / Bactrim / Biaxin / Sulfa(Sulfonamide 
Antibiotics) / azithromycin / Bactroban / hydrochlorothiazide / 
cefpodoxime
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with ___ disease,
Meniere's, ___ disease, and asthma who presents with
cough and congestion for the last week. She also called her 
PCP's
office on the day of presentation to complain of severe diarrhea
x3 days and dizziness. 

In the ED, a BNP was obtained and she was incidentally found to
have a level of 662. She was given 20 mg IV furosemide. 

On interview upon arrival to the floor, she reports that she
presented to the ED because of several days of diarrhea. She 
says
that she has chronic intermittent dizziness from her Meniere's
that is no worse than usual. She denies any nausea or vomiting.
She denies any sick contacts. She reports a chronic stuffy nose
for many years with post-nasal drip. She denies any shortness of
breath with rest or activity, orthopnea, PND, or peripheral 
edema
aside from swelling in her toes when she stands too long. 

- In the ED, initial vitals were:
T 97.7 HR 57 BP 126/59 HR20 93% RA 

- Labs were notable for:
Trop-T: <0.01
proBNP: 662
Lactate:0.9

- Studies were notable for:
CXR: 
IMPRESSION:  
No radiographic evidence for pneumonia.  Mild pulmonary vascular
congestion. Interval development of a moderate midthoracic
vertebral compression deformity, of indeterminate age. 
Progressive compression deformity of the L1 vertebral body. 

- The patient was given:
___ 20:18 IV Furosemide 20 mg 

- Case Management was consulted, who recommended:
"Patient declined any services. ___ d/c patient if medically
cleared."

On arrival to the floor, she feels well apart from her chronic
stuffy nose. 

 
Past Medical History:
Meniere's disease   
___ disease, type 1  
Osteoarthritis
Osteoporosis  
___ disease  
Asthma  
Hypertension  
Obstructive sleep apnea  
GERD  
Cataracts 
Recurrent UTIs
Vaginal prolapse-pessary in place 
Hx of colonic adenomas
Chronic low back pain, and R hip and leg pain that can interfere
with walking, partially secondary to ___ disease 

Past Surgical History:
--s/p hysterectomy
 
Social History:
___
Family History:
Mother - CHF 
Sister - ___ disease 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS:
___ 2343 Temp: 97.5 PO BP: 155/77 HR: 63 RR: 19 O2 sat: 95%
O2 delivery: Ra 
GENERAL: Well-appearing elderly woman in NAD. 
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM:
General: walking with physical therapy, in no acute distress
HEENT: NC/AT, dentures in place
Pulm: breathing comfortably with no increased work of breathing
Neuro: cranial nerves grossly intact, moving all 4 extremities 
without difficulty
 
Pertinent Results:
___ 03:10PM BLOOD WBC-9.6 RBC-4.08 Hgb-12.8 Hct-37.7 MCV-92 
MCH-31.4 MCHC-34.0 RDW-15.9* RDWSD-53.3* Plt ___
___ 03:10PM BLOOD Neuts-68.2 ___ Monos-6.7 Eos-0.1* 
Baso-0.7 Im ___ AbsNeut-6.51* AbsLymp-2.30 AbsMono-0.64 
AbsEos-0.01* AbsBaso-0.07
___ 03:10PM BLOOD Glucose-96 UreaN-21* Creat-1.1 Na-141 
K-4.5 Cl-104 HCO3-23 AnGap-14
___ 03:10PM BLOOD ALT-17 AST-21 AlkPhos-87 TotBili-0.4
___ 03:10PM BLOOD cTropnT-<0.01 proBNP-662*
___ 03:10PM BLOOD Albumin-4.2 Calcium-9.1 Phos-3.7 Mg-2.5
___ 04:22PM STOOL CDIFPCR-NEG
 


TRANSITIONAL ISSUES:
====================
[] pt expressed concerns about food insecurity. ___ benefit from 
Meals on Wheels or other food assistance services.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Estrogens Conjugated 1 gm VG ASDIR 
2. Benzonatate 100 mg PO TID:PRN cough 
3. LORazepam 0.5 mg PO BID:PRN anxiety 
4. ClonazePAM 0.5 mg PO BID:PRN anxiety 
5. azelastine 0.15 % (205.5 mcg) nasal BID 
6. Rosuvastatin Calcium 20 mg PO QPM 
7. BuPROPion XL (Once Daily) 150 mg PO DAILY 
8. Vitamin D ___ UNIT PO MONTHLY 
9. FLUoxetine 20 mg PO DAILY 
10. nebivolol 2.5 mg oral DAILY 
11. Oxybutynin 5 mg PO BID 
12. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN 
13. amLODIPine 10 mg PO DAILY 
14. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
15. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
16. Fluticasone Propionate NASAL 2 SPRY NU BID 

 
Discharge Medications:
1.  Cetirizine 10 mg PO DAILY 
RX *cetirizine 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  azelastine 0.15 % (205.5 mcg) nasal BID  
4.  Benzonatate 100 mg PO TID:PRN cough  
5.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
6.  ClonazePAM 0.5 mg PO BID:PRN anxiety  
7.  Estrogens Conjugated 1 gm VG ASDIR  
8.  FLUoxetine 20 mg PO DAILY  
9.  Fluticasone Propionate NASAL 2 SPRY NU BID  
10.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
11.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
12.  LORazepam 0.5 mg PO BID:PRN anxiety  
13.  nebivolol 2.5 mg oral DAILY  
14.  Oxybutynin 5 mg PO BID  
15.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN  
16.  Rosuvastatin Calcium 20 mg PO QPM  
17.  Vitamin D ___ UNIT PO MONTHLY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your stay at ___.

WHY WAS I HERE?
-You were feeling weak and had diarrhea

WHAT WAS DONE WHILE I WAS HERE?
-You were checked for infections that cause diarrhea
-You were seen by ___ and OT

WHAT SHOULD I DO WHEN I GO HOME?
-You should see your PCP

___ well!

Your ___ Care Team
 
Followup Instructions:
___